US05461154
A. 3-Methoxy-N-phenylbenzamide
A solution of 13.4 mL (147 mmol) of aniline in 30.7 mL of triethylamine was slowly added to a solution containing 25.1 g (147 mmol) of 3-methoxybenzoyl chloride in methylene chloride. The resulting reaction mixture was reacted for approximately thirty minutes and then diluted with 1N sodium bicarbonate. The resultant layers were separated and the organic layer was washed sequentially with water, 1M sodium hydroxide and then brine, dried over sodium sulfate, filtered and then reduced to dryness under reduced pressure to provide 31.6 g of an off-white solid.

reactant | aniline | 147 mmol, 13.4 mL | NC1=CC=CC=C1 | C6H7N
reactant | 3-methoxybenzoyl chloride | 147 mmol, 25.1 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | triethylamine | 30.7 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 1N | C([O-])(O)=O.[Na+]
product | 3-Methoxy-N-phenylbenzamide | 31.6 g, Yield: 95% | COC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C14H13NO2
